US05037987
(+)-1,4-Dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid ethyl ester
31.4 mg oxalyl chloride are added to a solution of 0.5 mL anhydrous dimethylformamide in 3 mL anhydrous dioxan cooled to 3° C., followed by stirring for 40 minutes at 0° to 5° C. After adding 85 mg (+)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid, dissolved in 1 mL anhydrous dioxan, the cooling is removed, followed by stirring for 2.5 hours. After adding 2 mL ethanol, the reaction mixture is first stirred for 2 hours at ambient temperature and thereafter for 30 minutes at 40° to 50° C. The reaction mixture is subsequently stirred with 30 mL 2N aqueous sodium carbonate solution and 10 mL dichloromethane. The organic phase is separated off and the aqueous phase subsequently extracted three times with 10 mL amounts of dichloromethane. The combined organic phases are dried over anhydrous sodium sulfate and then evaporated to dryness. The residue is purified over silica gel with n-hexane/ethyl acetate (1:1 v/v) as elution agent and subsequently recrystallized from n-hexane. Yield: 32 mg (38.5% of theory); mp 130° C.; [α]D =+105° (c=0.5/dichloromethane).

reactant | oxalyl chloride | 31.4 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
reactant | (+)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid | 85 mg | C(C)(C)OC1=C2C(C(=C(NC2=CC=N1)C)C(=O)O)C1=C(C=CC=C1)C(F)(F)F | C20H19F3N2O3
solvent | dioxan | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxan | 1 mL | O1CCOCC1 | C4H8O2
product | (+)-1,4-Dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC2=CC=NC(=C2C1C1=C(C=CC=C1)C(F)(F)F)OC(C)C)C | C22H23F3N2O3
